US09388189B2
c) (S)—N-(3-Fluoro-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-2-methoxyethanesulfonamide
(S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one (53 mg, 0.09 mmol) was treated with N-(3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methoxyethanesulfonamide (80 mg, 0.22 mmol), sodium carbonate (24 mg, 0.22 mmol) and 1,1′-Bis(diphenylphosphino)ferrocene-palladium(II)dichloride dichloromethane complex (22 mg, 0.03 mmol) in 1,2-dimethoxyethane (2 ml) and water (0.5 ml) according to the method described in Preparation 62. The residue was purified using SP1® Purification System (0% to 70% n-hexane-ethyl acetate) to obtain 59 mg (69% yield, 78% purity) of the title compound.

reactant | (S)-2-(1-((5-Bromo-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-4-yl)amino)ethyl)-5-methyl-3-phenylpyrrolo[2,1-f][1,2,4]triazin-4(3H)-one | 0.09 mmol, 53 mg | BrC1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C | C27H32BrN7O2Si
reactant | N-(3-fluoro-5-(4,4,5,5-tetramethyl-1,3,2-dioxaborolan-2-yl)phenyl)-2-methoxyethanesulfonamide | 0.22 mmol, 80 mg | FC=1C=C(C=C(C1)B1OC(C(O1)(C)C)(C)C)NS(=O)(=O)CCOC | C15H23BFNO5S
reactant | sodium carbonate | 0.22 mmol, 24 mg | C([O-])([O-])=O.[Na+].[Na+]
solvent | 1,2-dimethoxyethane | 2 ml | COCCOC | C4H10O2
solvent | water | 0.5 ml | O | H2O
product | (S)—N-(3-Fluoro-5-(4-((1-(5-methyl-4-oxo-3-phenyl-3,4-dihydropyrrolo[2,1-f][1,2,4]triazin-2-yl)ethyl)amino)-7-((2-(trimethylsilyl)ethoxy)methyl)-7H-pyrrolo[2,3-d]pyrimidin-5-yl)phenyl)-2-methoxyethanesulfonamide | 69% yield | FC=1C=C(C=C(C1)C1=CN(C=2N=CN=C(C21)N[C@@H](C)C2=NN1C(C(N2C2=CC=CC=C2)=O)=C(C=C1)C)COCC[Si](C)(C)C)NS(=O)(=O)CCOC | C36H43FN8O5SSi
